US07994164B2
(E)-N-(5-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-((7S,8aS)-hexahydro-pyrrolo[2,1-c][1,4]oxazin-7-yl)-1,3-dihydro-benzoimidazol-2-ylidene)-cyanamide
Dissolve [4-((E)-3,7-difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenyl]-((7S,8aS)-hexahydro-pyrrolo[2,1-c][1,4]oxazin-7-yl)-amine (0.009 mol, 5.0 g) in tetrahydrofuran (40 mL). Add triethylamine (0.009 mol, 0.9 g) and 10% platinum on carbon (1.0 g) and hydrogenate in a Parr shaker at 50 psi (H2) at room temperature for 3 h. Filter off the catalyst through a plug of diatomaceous earth, add pyridine (40 mL) and diphenyl N-cyanocarbonimidate (0.009 mol, 2.35 g) to the filtrate. Stir at room temperature for 16 h, then heat at 60-70° C. for 8 h. Remove the solvent under reduced pressure. Dissolve the resulting residue in dichloromethane and wash with water and saturated sodium bicarbonate solution. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate under reduced pressure. Purify on a silica gel column using 1% methanol in dichloromethane as eluent to give the title compound (1.9 g, 36%). LC-MS m/z 526.4 [M+H]+.

reactant | [4-((E)-3,7-difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenyl]-((7S,8aS)-hexahydro-pyrrolo[2,1-c][1,4]oxazin-7-yl)-amine | 0.009 mol, 5.0 g | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC(=C(C=C2)N[C@H]2C[C@H]4COCCN4C2)[N+](=O)[O-])C=CC=C3F)C1 | C28H25F2N3O4
reactant | triethylamine | 0.009 mol, 0.9 g | C(C)N(CC)CC | C6H15N
reactant | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
reactant | diphenyl N-cyanocarbonimidate | 0.009 mol, 2.35 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | platinum on carbon | 1.0 g | [Pt] | Pt
product | (E)-N-(5-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-((7S,8aS)-hexahydro-pyrrolo[2,1-c][1,4]oxazin-7-yl)-1,3-dihydro-benzoimidazol-2-ylidene)-cyanamide | 1.9 g, 36% | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC4=C(N(\C(\N4)=N\C#N)[C@H]4C[C@H]5COCCN5C4)C=C2)C=CC=C3F)C1 | C30H25F2N5O2
